US08492548B2
To a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (55 mg, 0.16 mmol) in EtOAc (5 ml), was added 2-bromo-1-o-tolylethanone (41.8 mg, 0.20 mmol), and the reaction was stirred at room temperature for 15 hours. The precipitate was collected by suction filtration to obtain (R)-1-(2-oxo-2-o-tolylethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (76.0 mg, 85% yield).

reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.16 mmol, 55 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | 2-bromo-1-o-tolylethanone | 0.20 mmol, 41.8 mg | BrCC(=O)C1=C(C=CC=C1)C | C9H9BrO
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | (R)-1-(2-oxo-2-o-tolylethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 76.0 mg, 85% yield | [Br-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)C2=C(C=CC=C2)C | InChI=1S/C30H33N2O3.BrH/c1-22-10-8-9-15-26(22)27(33)20-32-18-16-23(17-19-32)28(21-32)35-30(34)29(24-11-4-2-5-12-24)31-25-13-6-3-7-14-25;/h2-15,23,28-29,31H,16-21H2,1H3;1H/q+1;/p-1/t23?,28-,29+,32?;/m0./s1
